### PR TITLE
feat: `switch_equiv_zero_iff`

### PR DESCRIPTION
**Pull request by plp127**
Prove that `±x ≈ 0 ↔ ¬0 ≤ x`.

### CODE REVIEW

File: CombinatorialGames/Game/Special.lean [hunk 1]
```diff
@@ -229,5 +229,16 @@ theorem short_switch_iff {x : IGame} : Short (±x) ↔ Short x := by
...
   rwa [short_switch_iff]
 
+theorem switch_equiv_zero_iff {x : IGame} : ±x ≈ 0 ↔ ¬0 ≤ x := by
+  constructor
+  · intro h
+    exact left_lf_of_le h.le (by simp)
+  · intro h
+    constructor
+    · exact le_zero.2 (by simp [h])
+    · exact zero_le.2 (by simp [h])
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean]:
```suggestion
  refine ⟨fun h ↦ left_lf_of_le h.le ?_, fun h ↦ ⟨le_zero.2 ?_, zero_le.2 ?_⟩⟩
  · simp
  · simpa
  · simpa
```

**Review by vihdzp — APPROVED** [review]
